US05574178
4-Acetoxy-3,5-di-tert-butyl-2-(2-propenyl)phenol (1.0 g, 3.3 mmol) was dissolved in dichloromethane (10 ml) and BF3 etherate (0.7 ml) was added dropwise to the solution under a nitrogen atmosphere. The mixture was stirred for 24 h at room temperature and, thereafter, water was added and the mixture was extracted with ethyl acetate. The extracted layer was washed with a saturated aqueous solution of sodium hydrogen carbonate, dried over anhydrous magnesium sulfate and concentrated. The concentrate was dissolved in tetrahydrofuran (5 ml) and the solution was added dropwise to a suspension of lithium aluminum hydride (76 mg) in tetrahydrofuran (5 ml) that had been prepared under a nitrogen atmosphere. After refluxing for 3 h, the reaction mixture was cooled to room temperature and water was added dropwise. Following the addition of 1N aqueous sodium hydroxide, the mixture was subjected to extraction with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The concentrate was purified by silica gel chromatography (10% ethyl acetate in n-hexane) to afford 4,6-di-tert-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran [450 mg (yield, 52%)].

reactant | 4-Acetoxy-3,5-di-tert-butyl-2-(2-propenyl)phenol | 3.3 mmol, 1.0 g | C(C)(=O)OC1=C(C(=C(C=C1C(C)(C)C)O)CC=C)C(C)(C)C | C19H28O3
reactant | BF3 | 0.7 ml | B(F)(F)F | BF3
reactant | water | O | H2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4,6-di-tert-butyl-5-hydroxy-2-methyl-2,3-dihydrobenzofuran | 450 mg, 52% | C(C)(C)(C)C1=C(C(=CC2=C1CC(O2)C)C(C)(C)C)O | C17H26O2
